USH0001942H1
A mixture of 0.55 gram (0.004 mole) of copper(II) chloride and 0.6 mL (0.005 mole) of tert-butyl nitrite in 7.0 mL of ethyl acrylate and 10 mL of acetonitrile was stirred for five minutes, and cooled to 15° C. With continued stirring, a solution of 1.0 gram (0.003 mole) of 1-methyl-5-difluoromethoxy-4-chloro-3-(2-fluoro-4-chloro-5-aminophenyl)pyrazole in about five mL of acetonitrile was added dropwise while maintaining the reaction mixture temperature below 30° C. Upon completion of addition the reaction mixture was stirred with continued cooling for ten minutes, then it was allowed to warm to ambient temperature where it stirred for 1.5 hours. After this time the reaction mixture was poured into 75 mL of aqueous 20% hydrochloric acid. The resultant mixture was extracted with two 50 mL portions of diethyl ether. The combined extracts were washed with one portion of aqueous 20% hydrochloric acid, then dried with magnesium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure to an oil residue. The residue was subjected to column chromatography on silica gel using methylene chloride as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 0.9 gram of ethyl 2-chloro-3-[2-chloro-4-fluoro-5-(4-chloro-5-difluoromethoxy-1-methylpyrazol-3-yl)phenyl]propanoate. The NMR spectrum was consistent with the proposed structure.

reactant | tert-butyl nitrite | 0.005 mole, 0.6 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | 1-methyl-5-difluoromethoxy-4-chloro-3-(2-fluoro-4-chloro-5-aminophenyl)pyrazole | 0.003 mole, 1.0 gram | CN1N=C(C(=C1OC(F)F)Cl)C1=C(C=C(C(=C1)N)Cl)F | C11H8Cl2F3N3O
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acrylate | 7.0 mL | C(C=C)(=O)OCC | C5H8O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | about five mL | C(C)#N | C2H3N
catalyst | copper(II) chloride | 0.004 mole, 0.55 gram | [Cu](Cl)Cl
product | ethyl 2-chloro-3-[2-chloro-4-fluoro-5-(4-chloro-5-difluoromethoxy-1-methylpyrazol-3-yl)phenyl]propanoate | 0.9 gram | ClC(C(=O)OCC)CC1=C(C=C(C(=C1)C1=NN(C(=C1Cl)OC(F)F)C)F)Cl | C16H14Cl3F3N2O3
